US08048909B2
Methyl 5-bromo-4-ethyl-1H-pyrrole-3-carboxylate
Using methyl 4-ethyl-1H-pyrrole-3-carboxylate (2.32 g) and N-bromosuccinimide (2.74 g), a procedure as in Reference Example 40 was performed to give the title compound as white crystals (yield 2.96 g, 84%).

reactant | methyl 4-ethyl-1H-pyrrole-3-carboxylate | 2.32 g | C(C)C=1C(=CNC1)C(=O)OC | C8H11NO2
reactant | N-bromosuccinimide | 2.74 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | Methyl 5-bromo-4-ethyl-1H-pyrrole-3-carboxylate | yield 2.96 g, 84% | BrC1=C(C(=CN1)C(=O)OC)CC | C8H10BrNO2
